Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.96820075899
[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.0197245477
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.23242895901
[C:3](=[C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.61658889403
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-3.29225685526
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.12217913638
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.18624126717
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3],5.5191481834300005
[C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][C:4][O:5]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],0.46758726571
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],1.83508601445
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.8590464091
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],1.92500513641
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.64971093554
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.7720572372900003
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[H:12],8.083107783360001
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.53271854007
[C:6]([H:7])[H:8].[H:1][O:2][C@:3]([H:4])([O:5])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.03430270198
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.23143648084
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.7165388468089999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.88063701777
[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.79215632868
[C:1]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.56502405857
[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.94253973378
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7][C:8]1([H:9])[H:10],1.51990164092
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][C:4][O:5],-0.46758726571
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.37434125547
[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.3189546345899998
